US04788206
As in Example 115, (E,E)-5-(4-methoxyphenyl)-2,4-heptadecadienoic acid (7.5 g) and 4-nitrophenol (3.77 g) in 30 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide (4.2 g). The mixture was stirred at room temperature for 3 days to give, after the usual work up, 8.5 crude ester. The material was purified by HPLC (ether-hexane; 1:7), then was crystallized from 2-propanol to furnish 5.88 g of (E,E)-5-(4-methoxyphenyl)-2,4-decadienoic acid 4-nitrophenyl ester, mp 46°-47° C.

reactant | (E,E)-5-(4-methoxyphenyl)-2,4-heptadecadienoic acid | 7.5 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/CCCCCCCCCCCC | C24H36O3
reactant | 4-nitrophenol | 3.77 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 4.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (E,E)-5-(4-methoxyphenyl)-2,4-decadienoic acid 4-nitrophenyl ester | 5.88 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/CCCCC)\C1=CC=C(C=C1)OC)=O | C23H25NO5
